US07553854B2
To the reaction mixture of 2-(methylthio)benzo[d]thiazol-6-ol (750 mg, 3.79 mmol) in 10 ml of NMP was added Cesium Carbonate (3.2 g, 9.5 mmol) and stirred at RT for 3 minutes. To this mixture was added 4-chloroquinoline (682 mg, 4.17 mmol). The reaction mixture was stirred at 110° C. for 24 hours. The reaction was worked up by adding 250 ml ethyl acetate and washed with 75 ml of saturated NaHCO3, 2×60 ml water, 1×50 ml saturated NaCl, dried with sodium sulfate, filtered and concentrated in vacuo. The resulting solid residue was purified by silica gel column chromatography, eluted with (40% EtOAc: 60% Hexanes) and concentrated in vaccuo to give 2-(methylthio)-6-(quinolin-4-yloxy)benzo[d]thiazole as solid (980 mg). ES/MS m/z 325.1 (MH+).

reactant | 2-(methylthio)benzo[d]thiazol-6-ol | 3.79 mmol, 750 mg | CSC=1SC2=C(N1)C=CC(=C2)O | C8H7NOS2
reactant | Cesium Carbonate | 9.5 mmol, 3.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloroquinoline | 4.17 mmol, 682 mg | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
product | 2-(methylthio)-6-(quinolin-4-yloxy)benzo[d]thiazole | 980 mg | CSC=1SC2=C(N1)C=CC(=C2)OC2=CC=NC1=CC=CC=C21 | C17H12N2OS2
